US05374643
A. [3-[3-methyl(1,2,4-oxadiazol-5-yl)]phenyl]-carbamic acid, 4-nitrophenyl ester
A solution of 3-[3-methyl(1,2,4-oxadiazol-5-yl)]phenyl amine (1.00 g, 5.7 mmol, prepared in sequence by the procedures described by Lin et al., J. Org. Chem., 1979, 44, 4160 and Bellamy and Ou, Tetrahedron Letters, 1984, 25, 839) in acetonitrile (25 mL) and pyridine (0.46 mL, 0.45 g, 5.7 mmol) under argon at 0° C. was treated with p-nitrophenyl chloroformate ( 1.15 g, 5.7 mmol) and was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and an effort was made to partition the remaining oil between ethyl acetate and 10% citric acid, resulting in separation of a solid insoluble in either phase. The solid was collected, triturated with hexane and dried in vacuo to yield 1.59 g (82%) of the title compound, m.p. 217°-220° C. TLC, silica gel, EtOAc/MeOH/HOAc (20:1:.2), Rf =0.75; M.S. (M+H)+ at 341, M.W. 340. This material contained minor impurities and was used without further purification.

reactant | 3-[3-methyl(1,2,4-oxadiazol-5-yl)]phenyl amine | CC1=NOC(=N1)C=1C=C(C=CC1)N | C9H9N3O
reactant | pyridine | 5.7 mmol, 0.46 mL, 0.45 g | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 5.7 mmol, 1.15 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | [3-[3-methyl(1,2,4-oxadiazol-5-yl)]phenyl]-carbamic acid, 4-nitrophenyl ester | 1.59 g, 82% | CC1=NOC(=N1)C=1C=C(C=CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H12N4O5
